US09056873B2
Preparation 34: tert-Butyl 6-(((1R,2S)-2-((tert-butoxycarbonyl)amino)cyclohexyl)amino)-4-chloro-7-fluoro-1-methyl-3-oxo-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate
To a flask containing a mixture of tert-butyl 4,6-dichloro-7-fluoro-3-oxo-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate (1 g, 2.98 mmol) in 2-propanol (7 mL) was added tert-butyl ((1S,2R)-2-aminocyclohexyl)carbamate (767 mg, 3.58 mmol) dissolved in DMSO (1.2 mL) followed by DIPEA (0.677 mL, 3.88 mmol). The flask was equipped with a condenser and nitrogen blanket and was lowered into a 90° C. oil bath, where the reaction mixture was allowed to stir for 16 h. The mixture was subsequently purified via preparative HPLC to give the title compound as a white solid (490 mg, 32%). [M+H] calc'd for C19H26ClFN4O3, 413. found, 413.

reactant | tert-butyl 4,6-dichloro-7-fluoro-3-oxo-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate | 2.98 mmol, 1 g | ClC1=NC(=C(C2=C1C(N(C2)C(=O)OC(C)(C)C)=O)F)Cl | C12H11Cl2FN2O3
reactant | tert-butyl ((1S,2R)-2-aminocyclohexyl)carbamate | 3.58 mmol, 767 mg | N[C@H]1[C@H](CCCC1)NC(OC(C)(C)C)=O | C11H22N2O2
reactant | DIPEA | 3.88 mmol, 0.677 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | 2-propanol | 7 mL | CC(C)O | C3H8O
solvent | DMSO | 1.2 mL | CS(=O)C | C2H6OS
product | tert-Butyl 6-(((1R,2S)-2-((tert-butoxycarbonyl)amino)cyclohexyl)amino)-4-chloro-7-fluoro-1-methyl-3-oxo-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate | 490 mg, 32% | C(C)(C)(C)OC(=O)N[C@@H]1[C@@H](CCCC1)NC1=C(C2=C(C(=N1)Cl)C(N(C2C)C(=O)OC(C)(C)C)=O)F | C24H34ClFN4O5
